US09193723B2
1-(imidazo[1,2-a]pyridin-7-ylmethyl)-3-[4-(1-propyl-1H-pyrazol-4-yl)phenyl]urea
The title compound was prepared as described in Example 51A, substituting 1-propyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole for 1-isobutyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole and 1-(4-bromophenyl)-3-(imidazo[1,2-a]pyridin-7-ylmethyl)urea for 4-bromoaniline. 1H NMR (300 MHz, DMSO-d6) δ 8.62 (s, 1H), 8.48 (dd, J=6.9, 0.9 Hz, 1H), 8.04 (d, J=0.8 Hz, 1H), 7.90-7.86 (m, 1H), 7.76 (d, J=0.8 Hz, 1H), 7.51 (d, J=1.2 Hz, 1H), 7.46-7.35 (m, 5H), 6.84 (dd, J=7.0, 1.7 Hz, 1H), 6.69 (t, J=6.0 Hz, 1H), 4.34 (d, J=5.9 Hz, 2H), 4.04 (t, J=6.9 Hz, 2H), 1.91-1.73 (m, 2H), 1.26-1.05 (m, 1H), 0.85 (t, J=7.4 Hz, 3H); MS (ESI(+)) m/e 375 (M+H)+.

reactant | 1-isobutyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | C(C(C)C)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H23BN2O2
reactant | 1-(4-bromophenyl)-3-(imidazo[1,2-a]pyridin-7-ylmethyl)urea | BrC1=CC=C(C=C1)NC(=O)NCC1=CC=2N(C=C1)C=CN2 | C15H13BrN4O
reactant | 4-bromoaniline | BrC1=CC=C(N)C=C1 | C6H6BrN
product | 1-(imidazo[1,2-a]pyridin-7-ylmethyl)-3-[4-(1-propyl-1H-pyrazol-4-yl)phenyl]urea | N=1C=CN2C1C=C(C=C2)CNC(=O)NC2=CC=C(C=C2)C=2C=NN(C2)CCC | C21H22N6O
